US09353121B2
A mixture of 4-fluorobenzaldehyde (70.0 μL, 0.675 mmol, 1.0 equ.), malononitrile (45.0 mg, 0.675 mmol, 1.0 equ.) and triethylamine (90.0 μL, 0.675 mmol, 1.0 equ.) in ethanol (3.0 mL) was stirred for 1 min, followed by the addition of the 3-(3,4-dimethoxyphenyl)-1-phenyl-1H-pyrazol-5(4H)-one (200 mg, 0.675 mmol, 1 equ.). The reaction mixture was concentrated after 19 h and the crude material was purified by column chromatography (25% ethyl acetate in hexanes to 100% ethyl acetate). The yellow solid was further purified by re-crystallization from ethanol to give 6-amino-3-(3,4-dimethoxyphenyl)-4-(4-fluorophenyl)-1-phenyl-1,4-dihydropyrano[2,3-c]pyrazole-5-carbonitrile (164 mg, 0.350 mmol, 12%) as a white solid. 1H-NMR (400 MHz) CDCl3: 7.80-7.78 (d, 2H), 7.52-7.48 (t, 2H), 7.38-7.35 (t, 1H), 7.25-7.21 (m, 2H), 7.05-6.95 (m, 4H), 6.75-6.73 (d, 1H), 4.91 (s, 1H), 4.84 (s, 1H), 3.84 (s, 3H), 3.71 (s, 3H), 13C-NMR (100 MHz) CDCl3: 163.2, 157.8, 149.2, 148.7, 147.5, 144.9, 138.6, 137.4, 129.3, 129.1, 129.0, 127.1, 125.0, 121.5, 119.8, 119.0, 115.9, 115.7, 110.8, 109.9, 96.6, 64.0, 55.8, 55.7, 37.5; LC/MS-MS: 469.3→403.1 m/z; GS1 and GS2 at 30, DP=6, CE=35, CXP=26, tR=4.16 min.

reactant | 4-fluorobenzaldehyde | 0.675 mmol, 70.0 μL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | malononitrile | 0.675 mmol, 45.0 mg | C(CC#N)#N | C3H2N2
reactant | triethylamine | 0.675 mmol, 90.0 μL | C(C)N(CC)CC | C6H15N
reactant | 3-(3,4-dimethoxyphenyl)-1-phenyl-1H-pyrazol-5(4H)-one | 0.675 mmol, 200 mg | COC=1C=C(C=CC1OC)C1=NN(C(C1)=O)C1=CC=CC=C1 | C17H16N2O3
solvent | ethanol | 3.0 mL | C(C)O | C2H6O
product | 6-amino-3-(3,4-dimethoxyphenyl)-4-(4-fluorophenyl)-1-phenyl-1,4-dihydropyrano[2,3-c]pyrazole-5-carbonitrile | 0.350 mmol, 164 mg, 12% | NC1=C(C(C2=C(N(N=C2C2=CC(=C(C=C2)OC)OC)C2=CC=CC=C2)O1)C1=CC=C(C=C1)F)C#N | C27H21FN4O3
